US06069149
30 ml of 10% hydrogen chloride-methanol was added to 1.59 g (7.46 mmol) of 4-(phenylamino)benzoic acid and the mixture was refluxed overnight under heating. After the reaction mixture was concentrated under reduced pressure, the residue was dissolved in ethyl acetate, washed with a sodium hydrogencarbonate aqueous solution and brine, and dried (MgSO4). The solvent was distilled off and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:1 (v/v)) to obtain 1.66 g (7.30 mmol) of methyl 4-(phenylamino)benzoate as a pale yellow solid. Its spectroscopic data are as follows:

reactant | 4-(phenylamino)benzoic acid | 7.46 mmol, 1.59 g | C1(=CC=CC=C1)NC1=CC=C(C(=O)O)C=C1 | C13H11NO2
reactant | hydrogen chloride methanol | 30 ml | Cl.CO
product | methyl 4-(phenylamino)benzoate | 7.30 mmol, 1.66 g | C1(=CC=CC=C1)NC1=CC=C(C(=O)OC)C=C1 | C14H13NO2
